US04357344
2,6-Di-t-butyl-4-(α-methylbenzyl)phenol was prepared by refluxing 2,6-di-t-butylphenol (51 g) and 1-phenylethanol (31 g) in acetic acid (40 ml) and formic acid (75 ml) as described for A. The product was obtained as a colorless oil, b.p. 166°-168° at 1.0 mm Hg (62 g); (meas. mass=310.2309. Calc. for C22H30O=310.2296). The pmr spectrum was: δ1.40, 18H, S; δ1.61, 3H, D (J=8 Hz); δ4.06, 1H, Q (J=8 Hz); δ5.02, 1H, S; δ7.01, 2H, S; δ7.22, 5H, S.

reactant | 2,6-di-t-butylphenol | 51 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | 1-phenylethanol | 31 g | C1(=CC=CC=C1)C(C)O | C8H10O
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | formic acid | 75 ml | C(=O)O | CH2O2
product | 2,6-Di-t-butyl-4-(α-methylbenzyl)phenol | C(C)(C)(C)C1=C(C(=CC(=C1)C(C1=CC=CC=C1)C)C(C)(C)C)O | C22H30O
